US04207104
5-Amino-2-Chloro-3-Methoxypyridine
2-Chloro-3-methoxy-5-nitropyridine (1.5 g, 0.008 mole) was added to concentrated hydrochloric acid (15 ml) at 5° C., followed by stannous chloride (5.0 g). The reaction mixture was stirred for 10 minutes at 5° C., heated for 30 minutes on a steam bath, cooled, neutralized with aqueous sodium hydroxide (20 percent by weight) and extracted with 1,1,1-trichloroethane. The trichloroethane extract was dried over MgSO4 and evaporated in vacuo to yield a white solid; yield, 1.02 g (91 percent), m.p. 93° to 94° C.

reactant | 2-Chloro-3-methoxy-5-nitropyridine | 0.008 mole, 1.5 g | ClC1=NC=C(C=C1OC)[N+](=O)[O-] | C6H5ClN2O3
reactant | hydrochloric acid | 15 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
product | 5-Amino-2-Chloro-3-Methoxypyridine | NC=1C=C(C(=NC1)Cl)OC | C6H7ClN2O
